US06307047B1
2-(3,4-Difluorophenyl)-4-(2-cyclopentyl-1-ethoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 178, starting with 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 2-cyclopentyl-1-ethanol in place of 2-ethyl-1-hexanol (yield: 115 mg, 60%). mp 100-101° C. 1H NMR (300 MHz, DMSO-d6) δ 1.00 (m, 2H), 1.38 (m, 2H), 1.57 (m, 7H), 3.30 (s, 3H), 4.42 (t, J=7 Hz, 2H), 7.52 (m, 1H), 7.62 (m, 1H), 7.81 (m, 1H), 7.90 (d, J=9 Hz, 2H), 8.08 (d, J=9 Hz, 2H), 8.22 (s, 1H). MS (APCI+) m/z 475 (M+H)+; (APCI−) m/z 509 (M+Cl)−. Anal. calc. for C24H24F2N2O4S.0.25 H2O: C, 60.17; H, 5.15; N, 5.84. Found: C, 60.12; H, 5.14; N, 5.76.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O6S2
reactant | 2-cyclopentyl-1-ethanol | C1(CCCC1)CCO | C7H14O
solvent | H2O | O | H2O
product | 2-(3,4-Difluorophenyl)-4-(2-cyclopentyl-1-ethoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C | C24H24F2N2O4S
